US07754737B2
A solution of (S)-1-(6-fluoro-3′-methylbiphenyl-2-yl)-5-methoxy-1-((R)-piperidin-3-yl)pentan-1-ol TFA salt (62.7 mg, 0.13 mmol) in anhydrous CH2Cl2 (0.5 mL) containing triethyl amine (0.1 mL) was added to above solution of (S)-tert-butyl 3-((4-nitrophenoxy)carbonylamino)piperidine-1-carboxylate within 1 min. The mixture was stirred for 30 min. The reaction mixture was evaporated and the residue was purified by preparative HPLC to afford (S)-tert-Butyl 3-((R)-3-((S)-1-(6-fluoro-3′-methylbiphenyl-2-yl)-1-hydroxy-5-methoxypentyl)piperidine-1-carboxamido)piperidine-1-carboxylate (35 mg). MS m/z 612 (M+H)+.

reactant | (S)-1-(6-fluoro-3′-methylbiphenyl-2-yl)-5-methoxy-1-((R)-piperidin-3-yl)pentan-1-ol TFA salt | 0.13 mmol, 62.7 mg | OC(=O)C(F)(F)F.FC1=CC=CC(=C1C1=CC(=CC=C1)C)[C@@](CCCCOC)(O)[C@H]1CNCCC1
reactant | triethyl amine | 0.1 mL | C(C)N(CC)CC | C6H15N
reactant | (S)-tert-butyl 3-((4-nitrophenoxy)carbonylamino)piperidine-1-carboxylate | [N+](=O)([O-])C1=CC=C(OC(=O)N[C@@H]2CN(CCC2)C(=O)OC(C)(C)C)C=C1 | C17H23N3O6
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
product | (S)-tert-Butyl 3-((R)-3-((S)-1-(6-fluoro-3′-methylbiphenyl-2-yl)-1-hydroxy-5-methoxypentyl)piperidine-1-carboxamido)piperidine-1-carboxylate | 35 mg | FC1=CC=CC(=C1C1=CC(=CC=C1)C)[C@@](CCCCOC)(O)[C@H]1CN(CCC1)C(=O)N[C@@H]1CN(CCC1)C(=O)OC(C)(C)C | C35H50FN3O5
